US04021481
N-Methylglucamine (10 g, 0.05 mol) was suspended (partly dissolved) in dry freshly-distilled pyridine and cooled in an ice-bath. Trimethyl silylchloride (30 g, 0.28 mol) was added in portions so that the temperature did not rise above 20°- 25°. After 1 hour the reaction slurry was poured into ether (200 ml) and water (200 ml) and shaken; the ether layer was washed several times with water, dried and evaporated at 50°-60° to leave the oily per-trimethylsilyl ether containing a trace of pyridine. Yield: ca. 20 g (50%).

reactant | N-Methylglucamine | 0.05 mol, 10 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | Trimethyl silylchloride | 0.28 mol, 30 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | water | 200 ml | O | H2O
product | trimethylsilyl ether | C[Si](C)(C)O[Si](C)(C)C | C6H18OSi2
